US08207168B2
To a round-bottom flask was added phenol (5.0 g, 53.1 mmol), 1-bromo-3-chloropropane (5.52 mL, 55.8 mmol), potassium carbonate (22.0 g, 159 mmol), and acetonitrile (100 mL). The reaction mixture was heated to reflux for 15 h. To this reaction was then added (R)-2-methyl-pyrrolidine hydrochloride (12.9 g, 106 mmol) and sodium iodide (7.96 g, 53.1 mmol) at room temperature. The reaction was continued to reflux for 24 h. After cooled to room temperature, the reaction was filtered through a pad of Celite eluted with CH2Cl2 (100 mL). The filtrate was concentrated. Purification by column chromatography (5% MeOH in CH2Cl2) to give 9.02 g (77%) of (R)-2-methyl-1-(3-phenoxy-propyl)-pyrrolidine.

reactant | phenol | 53.1 mmol, 5.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | 1-bromo-3-chloropropane | 55.8 mmol, 5.52 mL | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 159 mmol, 22.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-2-methyl-pyrrolidine hydrochloride | 106 mmol, 12.9 g | Cl.C[C@H]1NCCC1
reactant | sodium iodide | 53.1 mmol, 7.96 g | [I-].[Na+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (R)-2-methyl-1-(3-phenoxy-propyl)-pyrrolidine | 9.02 g, 77% | C[C@H]1N(CCC1)CCCOC1=CC=CC=C1 | C14H21NO
